US07423158B2
A mixture of 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one (2.4 g, 5.85 mmol), 3-hydroxy-1-propyne (3.27 g, 58.5 mmol) and Pd(PPh3)4 (670 mg, 0.585 mmol) in pyrrolidine is heated at 70° C. under a nitrogen atmosphere for 16 h, diluted with water and extracted with CH2Cl2. The extracts are combined, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is purified by chromatography on a silica cartridge, to give 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-hydroxyprop-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one, 1 g (45% yield), identified by NMR and mass spectral analyses.

reactant | 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 5.85 mmol, 2.4 g | NC1=NC(C(N1C)=O)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)Br | C17H14BrF2N3O2
reactant | 3-hydroxy-1-propyne | 58.5 mmol, 3.27 g | OCC#C | C3H4O
solvent | pyrrolidine | N1CCCC1 | C4H9N
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.585 mmol, 670 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-hydroxyprop-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 45% yield | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C#CCO)C1=CC=C(C=C1)OC(F)F | C20H17F2N3O3
